US06897208B2
To tetrafluoroboric acid (8.2 ml, 48 wt % in water) was added 3-fluoro-2-methylaniline (2.27 ml). The mixture was cooled to 0° C. when a precipitate formed which was redissolved by the addition of water (8 ml). A solution of sodium nitrite (1.38 g) in water (2.7 ml) was then added dropwise and the mixture was then allowed to warm to ambient temperature and then stirred for a further 1 hour. The precipitated solid was filtered, then washed with diethyl ether, and then dried under suction for 30 minutes. The resulting tetrafluoroborate salt was added to a suspension of potassium acetate (3.92 g) and 18-crown-6 (0.264 g) in chloroform (45 ml). After stirring for 3 hours at ambient temperature the bright orange mixture was filtered and the insoluble material was washed with dichloromethane, then subjected to flash column chromatography on silica eluting with a mixture of 40/60 petrol and ethyl acetate (3:1 v/v) to give 4-fluoro-1H-indazole (0.675 g) as an off-white solid. LC-MS (METHOD B): RT=2.70 minutes; 137 (M+H)+. (c) 4-Chloro-1H-indazole

reactant | tetrafluoroboric acid | 8.2 ml | F[B-](F)(F)F.[H+]
reactant | 3-fluoro-2-methylaniline | 2.27 ml | FC=1C(=C(N)C=CC1)C | C7H8FN
reactant | sodium nitrite | 1.38 g | N(=O)[O-].[Na+]
solvent | water | 2.7 ml | O | H2O
solvent | water | 8 ml | O | H2O
product | 4-fluoro-1H-indazole | 0.675 g | FC1=C2C=NNC2=CC=C1 | C7H5FN2
